US09035059B2
Potassium carbonate (2.42 g, 17.5 mmol) was added to a solution of 5-fluoro-2-nitrophenol (785 mg, 5.00 mmol) in N,N-dimethylformamide (10 mL), and the mixture was stirred at room temperature for 20 min. Chlorodifluoroacetic acid methyl ester (1.33 mL, 12.5 mmol) was added dropwise to the reaction mixture, and the mixture was stirred at room temperature for 30 min and then stirred at an external temperature of 90° C. for 3 hr. After cooling, water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine and dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1→4:1) to afford 2-(difluoromethoxy)-4-fluoro-1-nitrobenzene as a pale yellow oil (745 mg).

reactant | Potassium carbonate | 17.5 mmol, 2.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-fluoro-2-nitrophenol | 5.00 mmol, 785 mg | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | Chlorodifluoroacetic acid methyl ester | 12.5 mmol, 1.33 mL | COC(C(F)(F)Cl)=O | C3H3ClF2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(difluoromethoxy)-4-fluoro-1-nitrobenzene | 745 mg | FC(OC1=C(C=CC(=C1)F)[N+](=O)[O-])F | C7H4F3NO3
